US07772285B2
1.00 g of 4-methyl-1H-pyrazole and 2.5 mL of triethylamine were dissolved in 10 mL of tetrahydrofuran, to which 3.1 mL of di-tert-butyl dicarbonate and 73 mg of 4-(dimethylamino)pyridine were successively added, and this solution was stirred for 30 minutes at room temperature. The reaction mixture was added to a mixture of water and ethyl acetate, and adjusted to pH 7 with 6M hydrochloric acid, and then the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure to yield 2.23 g of tert-butyl 4-methyl-1H-pyrazole-1-carboxylate as light yellow oil.

reactant | 4-methyl-1H-pyrazole | 1.00 g | CC=1C=NNC1 | C4H6N2
reactant | triethylamine | 2.5 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | hydrochloric acid | 6M | Cl | ClH
reactant | di-tert-butyl dicarbonate | 3.1 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 73 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-methyl-1H-pyrazole-1-carboxylate | 2.23 g | CC=1C=NN(C1)C(=O)OC(C)(C)C | C9H14N2O2
